US07714009B2
N-(7-(Dipropylamino)-1,3-benzothiazol-2-yl)-2,4,6-trimethylbenzamide
To 0.118 g (0.379 mmol) of N-(7-amino-1,3-benzothiazol-2-yl)-2,4,6-trimethylbenzamide and 0.14 mL (1.9 mmol) of propionaldehyde in 5 mL of dichloroethane was added one drop of glacial acetic acid and 0.24 g (1.1 mmol) of sodium triacetoxyborohydride. The mixture was heated to 50° C. for 3 h and an additional 0.14 mL of propionaldehyde was added. The reaction was heated at 50° C. for 18 h and concentrated in vacuo. The crude solid was purified by flash chromatography eluting with a 13% ethyl acetate/hexanes mixture to give 0.080 g (53%) of the title compound as a cream colored powder.

reactant | N-(7-amino-1,3-benzothiazol-2-yl)-2,4,6-trimethylbenzamide | 0.379 mmol, 0.118 g | NC1=CC=CC=2N=C(SC21)NC(C2=C(C=C(C=C2C)C)C)=O | C17H17N3OS
reactant | propionaldehyde | 1.9 mmol, 0.14 mL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 1.1 mmol, 0.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | propionaldehyde | 0.14 mL | C(CC)=O | C3H6O
reactant | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | N-(7-(Dipropylamino)-1,3-benzothiazol-2-yl)-2,4,6-trimethylbenzamide | 0.080 g, 53% | C(CC)N(C1=CC=CC=2N=C(SC21)NC(C2=C(C=C(C=C2C)C)C)=O)CCC | C23H29N3OS
